US04284631
Potassium carbonate (4.84 g.) was added to a stirred solution of ethyl 2-(2-tritylaminothiazol-4-yl)-2-hydroxyiminoacetate (syn isomer, 10 g.) in N,N-dimethylformamide (22.0 ml.). Chloroacetonitrile (2.64 g.) was added dropwise to the solution under nitrogen atmosphere and stirred at room temperature for 5 hours. After removing the insoluble substance from the resultant mixture by filtration, water (300 ml.) was added to the filtrate and extracted with ethyl acetate (300 ml.). The extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, treated with activated charcoal and concentrated in vacuo. The residue was pulverized with a mixture of n-hexane, ethyl acetate and acetone (4:4:1) and then the precipitates were collected by filtration and washed with n-hexane to give ethyl 2-(2-tritylaminothiazol-4-yl)-2-cyanomethoxyiminoacetate (syn isomer, 9.58 g.).

reactant | Potassium carbonate | 4.84 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-(2-tritylaminothiazol-4-yl)-2-hydroxyiminoacetate | 10 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)OCC)=NO | C26H23N3O3S
reactant | Chloroacetonitrile | 2.64 g | ClCC#N | C2H2ClN
solvent | N,N-dimethylformamide | 22.0 ml | CN(C=O)C | C3H7NO
product | ethyl 2-(2-tritylaminothiazol-4-yl)-2-cyanomethoxyiminoacetate | 9.58 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)OCC)=NOCC#N | C28H24N4O3S
